US06339097B1
N-[2,4-Dimethylthio-6-methyl-3-pyridyl]-3-(4-phenyl-2H-3-benzo[b]pyranyl)prop-2-enamide
1 g (3.59 mmol) of 3-(4-phenyl-2H-3-benzo[b]-pyranyl)prop-2-enoic acid in solution in 30 ml of methylene chloride is placed in a 250-ml reactor protected from moisture, and a drop of dimethyl-formamide is added thereto. 0.39 ml (3.76 mmol) of oxalyl chloride is poured dropwise into this solution kept at room temperature. The reaction medium is then heated under reflux for 1 hour. After evaporation of the solvent, the reaction medium is taken up in 20 ml of methylene chloride. This solution is then poured into a mixture kept between 0 and 5° C. consisting of 0.75 g (3.76 mmol) of 2,4-dimethylthio-6-methyl-3-pyridylamine, 2.2 ml of pyridine and 30 ml of methylene chloride. The resulting reaction medium is stirred at room temperature for 12 hours. After addition of water, the organic phase is separated after settling out, washed with a 2 normal hydrochloric acid solution and then with water until a pH of the washings equal to 7 is obtained. After drying over sodium sulfate, the organic phase is evaporated off. The resulting solid is dispersed in 10 ml of hexane and drained. 1.1 g of the expected compound are thus obtained in the crude state. The latter is recrystallized from 140 ml of ethanol (12 hours at −20° C.) and then drained and dried. 0.77 g of the expected compound is obtained, that is to say a yield of 46.7%. ′This compound has a melting point of between 225 and 227° C.

reactant | 3-(4-phenyl-2H-3-benzo[b]-pyranyl)prop-2-enoic acid | 3.59 mmol, 1 g | C1(=CC=CC=C1)C=1C2=C(OCC1C=CC(=O)O)C=CC=C2 | C18H14O3
reactant | dimethyl-formamide | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 3.76 mmol, 0.39 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2,4-dimethylthio-6-methyl-3-pyridylamine | 3.76 mmol, 0.75 g | CSC1=NC(=CC(=C1N)SC)C | C8H12N2S2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | pyridine | 2.2 ml | N1=CC=CC=C1 | C5H5N
product | N-[2,4-Dimethylthio-6-methyl-3-pyridyl]-3-(4-phenyl-2H-3-benzo[b]pyranyl)prop-2-enamide | 1.1 g, yield of 46.7% | CSC1=NC(=CC(=C1NC(C=CC1=C(C2=C(OC1)C=CC=C2)C2=CC=CC=C2)=O)SC)C | C26H24N2O2S2
